US05053509
(RS)-3-Ethoxycarbonyl-7,9-difluoro-8-[3-(2-furyl)-1-piperazinyl]-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine was prepared under the conditions of Example 39, but starting with 3-ethoxycarbonyl-7,8,9-trifluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine (1.85 g) and (RS)-2-(2-furyl)piperazine (1 g). After concentration of the combined organic extracts under reduced pressure (20 kPa, approximately 40° C.), the residual solid is recrystallized in ethanol (100 cc). (RS)-3-Ethoxycarbonyl-7,9-difluoro-8-[3-(2-furyl)-1-piperazinyl]-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine (1.72 g) is obtained in the form of a yellow solid, m.p. 208°-210° C.

reactant | 3-ethoxycarbonyl-7,8,9-trifluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine | 1.85 g | C(C)OC(=O)C=1C(C=2C=C3C(=NC2N(C1)C)C(=C(C(=C3)F)F)F)=O | C16H11F3N2O3
reactant | (RS)-2-(2-furyl)piperazine | 1 g | O1C(=CC=C1)C1NCCNC1 | C8H12N2O
product | (RS)-3-Ethoxycarbonyl-7,9-difluoro-8-[3-(2-furyl)-1-piperazinyl]-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine | 1.72 g | C(C)OC(=O)C=1C(C=2C=C3C(=NC2N(C1)C)C(=C(C(=C3)F)N3CC(NCC3)C=3OC=CC3)F)=O | C24H22F2N4O4
